data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1503,1658,[CH2-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH:13]=[CH:14][CH:15]1[O:16]3)[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:18][CH2:17]2,water,298.15,16.421290384893158,-14.215754145851974
1450,1592,[CH3:13][O:14][C:15](=[O:16])[C:17](=[NH+:18][CH-:19][C:20]([CH3:21])=[O:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:19]([C:20]([CH3:21])=[O:22])[NH:18][C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:23](=[O:24])[O:25][CH3:26],water,298.15,33.054844797883824,-0.7880372603124789
176,193,[CH3:12][CH:13]=[O+:14][C-:15]([CH3:16])[C:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:15]([CH3:16])([C:17]#[N:18])[O:14][CH:13]2[CH3:12],water,298.15,8.650255045428064,-47.22092725672269
446,488,[CH3:14][CH:15]=[NH+:16][N-:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[N:17]([C:18](=[O:19])[O:20][CH3:21])[NH:16][CH:15]2[CH3:14],water,298.15,18.180247548725788,-12.06357881655559
662,722,[CH3:15][NH:16][C:17](=[O:18])[CH-:19][N+:20]#[C:21][C:22]#[N:23].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([C:22]#[N:23])=[N:20][CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,26.65650015152493,-44.83009820919652
606,666,[CH3:11][C:12](=[O:13])[C:14](=[O+:15][O-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[O:16][O:15][C:14]1([C:12]([CH3:11])=[O:13])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,13.394002559881695,-46.42174100310545
655,715,[CH3:12][C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:13]([CH3:12])=[N:14][C:15]3([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,17.131977756686368,-42.514422916528005
1672,1844,[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[N-:25][N+:26]#[N:27]>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[c:8]2[c:9]([n:27][n:26][n:25]2[C:23]([NH:22][CH3:21])=[O:24])[C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1,water,298.15,38.4419016340418,-33.46822852481235
3279,3715,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH:9]=[O+:10][C-:11]([CH3:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:11]([CH3:12])([C:13](=[O:14])[O:15][CH3:16])[O:10][CH:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,10.011449902952055,-50.61231177190041
3721,4249,[N:9]#[C:10][C-:11]([C:12]#[N:13])[N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:11]([C:10]#[N:9])([C:12]#[N:13])[N:14]=[C:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,14.901446207661412,-32.384934302324176
1816,2011,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[NH+:17][C-:18]([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27]([CH3:28])=[O:29].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:27]([CH3:28])=[O:29])[NH:17][C:18]2([C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,26.284220975235662,-10.989071517733306
2755,3061,[CH3:19][NH:20][C:21](=[O:22])[c-:23]1[c:24](=[O:25])[o:26][c:27]([C:28]([CH3:29])=[O:30])[n+:31]1[CH3:32].[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:27]1([C:28]([CH3:29])=[O:30])[O:26][C:24](=[O:25])[C:23]2([C:21]([NH:20][CH3:19])=[O:22])[N:31]1[CH3:32],water,298.15,19.324404831800813,-12.668760558390847
